US06380242B1
1-(2-(N-propylamino)ethyl)-6-(3-thienyl)-1H-indazole
A small scoop of palladium on carbon (10%˜10 mg, catalytic) was added to a solution of 1-(2-(N-allylamino)ethyl)-6-(3-thienyl)-1H-indazole (15 mg, 0.053 mmol) in ethyl acetate (1 mL). The resulting mixture was stirred under an atmosphere of hydrogen gas in a balloon for 1 h. Filtration through an SPE cartridge (Supelco, 6 mL, silica gel, 1000 mg, gradient from 0-10% 2M methanolic ammonia in ethyl acetate) gave the title product (12.2 mg, 81%).

reactant | 1-(2-(N-allylamino)ethyl)-6-(3-thienyl)-1H-indazole | 0.053 mmol, 15 mg | C(C=C)NCCN1N=CC2=CC=C(C=C12)C1=CSC=C1 | C16H17N3S
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(N-propylamino)ethyl)-6-(3-thienyl)-1H-indazole | 12.2 mg, 81% | C(CC)NCCN1N=CC2=CC=C(C=C12)C1=CSC=C1 | C16H19N3S
